US05236952
1.075 g of methyl (3-cyano-4,5-dihydroxyphenyl)glyoxylate and 0.60 g of 2-amino-p-cresol are stirred at 120° for 70 minutes in 2 ml of dimethylformamide. The mixture is subsequently cooled to room temperature and diluted with 15 ml of water. The precipitate is filtered and dried in a water-jet vacuum at 80° for 6 hours. After recrystallization from acetonitrile there is obtained 2,3-dihydroxy-5-(6-methyl-2-oxo-2H-1,4-benzoxazin-3-yl)benzonitrile of m.p. 278°-280°.

reactant | methyl (3-cyano-4,5-dihydroxyphenyl)glyoxylate | 1.075 g | C(#N)C=1C=C(C=C(C1O)O)C(C(=O)OC)=O | C10H7NO5
reactant | 2-amino-p-cresol | 0.60 g | NC1=CC(=CC=C1O)C | C7H9NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 15 ml | O | H2O
product | 2,3-dihydroxy-5-(6-methyl-2-oxo-2H-1,4-benzoxazin-3-yl)benzonitrile | OC1=C(C#N)C=C(C=C1O)C=1C(OC2=C(N1)C=C(C=C2)C)=O | C16H10N2O4
